US05925768
3-Chloro-4-fluorobenzyl bromide
0.05 g of dibenzoyl peroxide and then 6.1 g of N-bromosuccinimide are added to a mixture of 5 g of 3-chloro-4-fluorotoluene and 100 ml of CCl4 and the reaction mixture is refluxed for 12 hours. The insoluble material is filtered off and washed with CCl4. The filtrate is washed with water and with saturated NaCl solution, the organic phase is dried over Na2SO4 and the solvent is evaporated off under vacuum to give 7.5 g of the expected product in the form of an oil, which is used as such.

reactant | N-bromosuccinimide | 6.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-chloro-4-fluorotoluene | 5 g | ClC=1C=C(C=CC1F)C | C7H6ClF
catalyst | dibenzoyl peroxide | 0.05 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Chloro-4-fluorobenzyl bromide | 7.5 g | ClC=1C=C(CBr)C=CC1F | C7H5BrClF
